### PR TITLE
History vlsms

### PR DESCRIPTION
**Pull request by traiansf**
Some results about VLSMs carrying  their history (and whose transitions are thus reversible).

### CODE REVIEW

File: theories/VLSM/Core/Composition.v [hunk 1]
```diff
@@ -1537,3 +1537,159 @@ End sec_same_IM_full_projection.
...
+Proof.
+  split; [| by intros (l & iom & oom & ?); eapply composite_valid_transition_next].
+  by intros []; eexists _, _, _; split.
+Qed.
+
+Lemma CompositeValidTransitionNext_reachable_iff s1 s2 :
+  CompositeValidTransitionNext s1 s2 <-> ValidTransitionNext RFree s1 s2.
+Proof.
+  rewrite composite_valid_transition_next_iff, valid_transition_next_iff.
+  firstorder.
```
Comment (palmskog) [inline theories/VLSM/Core/Composition.v:1583]: Even though `firstorder` fails if it doesn't solve the goal, I think it's good to be consistent with `by`:
```suggestion
  by firstorder.
```

File: theories/VLSM/Core/Composition.v [hunk 2]
```diff
@@ -1537,3 +1537,159 @@ End sec_same_IM_full_projection.
...
+Qed.
+
+Lemma not_CompositeValidTransitionNext_initial :
+  forall s2, composite_initial_state_prop IM s2 ->
+  forall s1, ~ CompositeValidTransitionNext s1 s2.
+Proof.
+  intros s2 Hs2 s1 Hs1.
+  apply composite_valid_transition_next_iff in Hs1 as ((i, li) & iom & oom & Hs1).
+  apply composite_valid_transition_projection, proj1, valid_transition_next in Hs1; cbn in Hs1.
+  contradict Hs1; apply not_ValidTransitionNext_initial, Hs2.
```
Comment (palmskog) [inline theories/VLSM/Core/Composition.v:1614]:
```suggestion
  by contradict Hs1; apply not_ValidTransitionNext_initial, Hs2.
```

File: theories/VLSM/Core/Composition.v [hunk 3]
```diff
@@ -1537,3 +1537,159 @@ End sec_same_IM_full_projection.
...
+      * by rewrite !state_update_neq in Heqs' |- *.
+Qed.
+
+Definition composite_valid_transitions_from_to : relation (composite_state IM) :=
+  tc CompositeValidTransitionNext.
+
+Lemma composite_valid_transitions_from_to_reflects_rechability :
+  forall s1 s2, composite_valid_transitions_from_to s1 s2 ->
+    valid_state_prop RFree s2 -> valid_state_prop RFree s1.
+Proof. apply tc_reflect, CompositeValidTransitionNext_reflects_rechability. Qed.
```
Comment (palmskog) [inline theories/VLSM/Core/Composition.v:1693]:
```suggestion
Proof. by apply tc_reflect, CompositeValidTransitionNext_reflects_rechability. Qed.
```

File: theories/VLSM/Core/VLSM.v [hunk 4]
```diff
@@ -2786,3 +2786,95 @@ Lemma same_VLSM_initial_message_preservation m
...
+    unique_transition_to_state :
+      forall [s : vstate X],
+      forall [l1 s1 iom1 oom1], valid_transition X l1 s1 iom1 s oom1 ->
+      forall [l2 s2 iom2 oom2], valid_transition X l2 s2 iom2 s oom2 ->
+      l1 = l2 /\ s1 = s2 /\ iom1 = iom2 /\ oom1 = oom2
+  }.
+
+Global Hint Mode HistoryVLSM - ! : typeclass_instances.
+
+Global Instance preloaded_history_vlsm
```
Comment (palmskog) [inline theories/VLSM/Core/VLSM.v:2836]:
```suggestion
#[export] Instance preloaded_history_vlsm
```
Are you really sure we want this instance to be global, i.e., to be loaded regardless of whether people have explicitly imported this module? The alternative recommended by Coq devs is `#[export]`, which only makes something an instance when imported.

File: theories/VLSM/Core/Composition.v [hunk 5]
```diff
@@ -1537,3 +1537,159 @@ End sec_same_IM_full_projection.
...
+    composite_valid_transition l s1 iom s2 oom -> CompositeValidTransitionNext s1 s2.
+Proof. by intros * [Hv Ht]; esplit. Qed.
+
+Lemma composite_valid_transition_next_iff s1 s2 :
+  CompositeValidTransitionNext s1 s2
+    <->
+  exists l iom oom, composite_valid_transition l s1 iom s2 oom.
+Proof.
+  split; [| by intros (l & iom & oom & ?); eapply composite_valid_transition_next].
+  by intros []; eexists _, _, _; split.
```
Comment (wkolowski) [inline theories/VLSM/Core/Composition.v:1576]:
```suggestion
  split.
  - by intros []; eexists _, _, _; split.
  - by intros (l & iom & oom & ?); eapply composite_valid_transition_next.
```

I think if both cases are of similar complexity, it's better to treat them equally.

File: theories/VLSM/Core/Composition.v [hunk 6]
```diff
@@ -1537,3 +1537,159 @@ End sec_same_IM_full_projection.
...
+  apply f_equal with (f := fun s => s j) in Heqs.
+  by rewrite !state_update_neq in Heqs.
+Qed.
+  
+Lemma CompositeValidTransitionNext_reflects_rechability :
+  forall s1 s2, CompositeValidTransitionNext s1 s2 ->
+    valid_state_prop RFree s2 -> valid_state_prop RFree s1.
+Proof.
+  intros s1 s2 Hnext Hs2.
+  revert s1 Hnext.
```
Comment (wkolowski) [inline theories/VLSM/Core/Composition.v:1640]:
```suggestion
  intros s1 s2 Hnext Hs2; revert s1 Hnext.
```

I'd prefer to stick bookeeping tactics like these together.

File: theories/VLSM/Core/Composition.v [hunk 7]
```diff
@@ -1537,3 +1537,159 @@ End sec_same_IM_full_projection.
...
+  induction Hs2 using valid_state_prop_ind; intros;
```
Comment (wkolowski) [inline theories/VLSM/Core/Composition.v:1641]:
```suggestion
  induction Hs2 using valid_state_prop_ind; intros s1 Hnext;
```

Stuff in this `intros` should be named, as the names are later used.

File: theories/VLSM/Core/VLSM.v [hunk 8]
```diff
@@ -2786,3 +2786,95 @@ Lemma same_VLSM_initial_message_preservation m
...
 End same_VLSM.
+
+Definition valid_transition `(X : VLSM message) l s1 iom s2 oom : Prop :=
+  vvalid X l (s1, iom) /\ vtransition X l (s1, iom) = (s2, oom).
+
+Inductive ValidTransitionNext `(X : VLSM message) (s1 s2 : state) : Prop :=
+| transition_next : forall l iom oom,
+    vvalid X l (s1, iom) ->
+    vtransition X l (s1, iom) = (s2, oom) ->
+    ValidTransitionNext X s1 s2.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2797]: Another `Record` opportunity.

File: theories/VLSM/Core/VLSM.v [hunk 9]
```diff
@@ -2786,3 +2786,95 @@ Lemma same_VLSM_initial_message_preservation m
...
+
+Lemma ValidTransitionNext_preloaded_iff
+  `(X : VLSM message) (R := pre_loaded_with_all_messages_vlsm X) :
+  forall s1 s2, ValidTransitionNext X s1 s2 <-> ValidTransitionNext R s1 s2.
+Proof. by intros; split; intros []; esplit. Qed.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2802]:
```suggestion
Proof. by intros; split; intros []; econstructor. Qed.
```

Again, I think `econstructor` is much more legible here than `esplit`.

File: theories/VLSM/Core/VLSM.v [hunk 10]
```diff
@@ -2786,3 +2786,95 @@ Lemma same_VLSM_initial_message_preservation m
...
+
+Lemma valid_transition_next `(X : VLSM message) :
+  forall l s1 iom s2 oom,
+    valid_transition X l s1 iom s2 oom -> ValidTransitionNext X s1 s2.
+Proof. by intros * [Hv Ht]; esplit. Qed.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2807]:
```suggestion
Proof. by intros * [Hv Ht]; econstructor. Qed.
```

File: theories/VLSM/Core/VLSM.v [hunk 11]
```diff
@@ -2786,3 +2786,95 @@ Lemma same_VLSM_initial_message_preservation m
...
+
+Lemma valid_transition_next_iff `(X : VLSM message) s1 s2 :
+  ValidTransitionNext X s1 s2 <-> exists l iom oom, valid_transition X l s1 iom s2 oom.
+Proof.
+  split; [| by intros (l & iom & oom & ?); eapply valid_transition_next].
+  by intros []; eexists _, _, _; split.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2813]:
```suggestion
  split.
  - by intros []; eexists _, _, _; split.
  - by intros (l & iom & oom & ?); eapply valid_transition_next.
```

This file and the previous one feel a lot like copy-pasted, is there some way to factor things out?

**Review by wkolowski — APPROVED** [review]
Looks ok. I will commit most of my suggestions (and also some of Karl's suggestions about using `by`).

File: theories/VLSM/Core/Composition.v [hunk 12]
```diff
@@ -1537,3 +1537,159 @@ End sec_same_IM_full_projection.
...
+
+Lemma composite_valid_transition_reachable_iff l s1 iom s2 oom :
+  composite_valid_transition l s1 iom s2 oom <-> valid_transition RFree l s1 iom s2 oom.
+Proof. firstorder. Qed.
+
+Inductive CompositeValidTransitionNext (s1 s2 : composite_state IM) : Prop :=
+| composite_transition_next : forall l iom oom,
+    composite_valid IM l (s1, iom) ->
+    composite_transition IM l (s1, iom) = (s2, oom) ->
+    CompositeValidTransitionNext s1 s2.
```
[the remark this answers is not in the document]
Comment (traiansf) [reply theories/VLSM/Core/Composition.v:1563]: I don't like adding annotations to suppress compiler warnings. Thus, if I were to make it a record, I would make l iom oom arguments instead of fields, and I would still need this definition, either as an Inductive or as an `exists l iom oom, CompositeValidTransitionNextRecord s1 s2 l iom oom`
